US07291619B2
(2-piperazin-1-yl-phenyl)-piperadin-1-yl-methanone
The 1-Boc-4-(2-carboxy-phenyl)-piperazine (1 g, 3.26 mmol), piperidine (278 mg, 3.26 mmol), EDCI (625 mg, 3.26 mmol) and DMAP (50 mg, catalytic) were dissolved in DCM (20 mL) and stirred at r.t. for about 12 hours. The mixture was washed with water, dried, filtered, and concentrated. The resultant foam was taken up in DCM (10 mL) and TPA (5 mL) was added, and the mixture stirred at r.t. for about 2 hours. The reaction was concentrated and subjected to SCX ion exchange chromatography followed by silica gel chromatography to afford the final product (868 mg, 71%) as a white foam. LRMS (ESI+): 274.1 (M+1).

reactant | 1-Boc-4-(2-carboxy-phenyl)-piperazine | 3.26 mmol, 1 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)C(=O)O | C16H22N2O4
reactant | piperidine | 3.26 mmol, 278 mg | N1CCCCC1 | C5H11N
reactant | EDCI | 3.26 mmol, 625 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (2-piperazin-1-yl-phenyl)-piperadin-1-yl-methanone | 868 mg, 71% | N1(CCNCC1)C1=C(C=CC=C1)C(=O)N1CCCCC1 | C16H23N3O
